US06987114B1
1-(1H-benzotriazol-1-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 1-chloromethyl-1H-benzotriazole were reacted by the same way with the example 1 to obtain the titled compound (108 mg, yield: 26.6%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | 1-chloromethyl-1H-benzotriazole | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
product | 1-(1H-benzotriazol-1-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 108 mg, yield: 26.6% | N1(N=NC2=C1C=CC=C2)CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)C(C)C)=O)=O | C22H23N5O3
